US04916229
3-Cyclopropylamino-3-imino propanoic acid ethyl ester hydrochloride
To 13.3 g of 3-methoxy-3-imino propanoic acid ethyl ester hydrochloride in absolute ethanol was added 4.18 g of cyclopropylamine. The modest exotherm was controlled using a cold water bath and the reaction was stirred overnight. The ethanol was removed with rotary-evaporation to give a viscous oil. This oil was triturated with ethyl ether (1000 ml) to give a colorless solid. Yield=13.44 g.

reactant | 3-methoxy-3-imino propanoic acid ethyl ester hydrochloride | 13.3 g | Cl.C(C)OC(CC(=N)OC)=O
reactant | cyclopropylamine | 4.18 g | C1(CC1)N | C3H7N
solvent | ethanol | C(C)O | C2H6O
product | 3-Cyclopropylamino-3-imino propanoic acid ethyl ester hydrochloride | Cl.C(C)OC(CC(=N)NC1CC1)=O | InChI=1S/C8H14N2O2.ClH/c1-2-12-8(11)5-7(9)10-6-3-4-6;/h6H,2-5H2,1H3,(H2,9,10);1H
